US04113940
Zinc powder (2.4 g) was added under ice-cooling and stirring to a solution of 2,2,2-trichloroethyl 2-methyl-7-[2-(1H-tetrazol-1-yl)acetamido]-3-cephem-4-carboxylate (2.0 g) in a mixture of anhydrous dimethylformamide (10 ml) and acetic acid (3 ml), and the mixture was stirred for 1.5 hours at the same temperature. After the reaction, zinc powder was filtered off, and the filtrate was extracted by pouring into a mixture of ethyl acetate (50 ml), ice-water and 10% hydrochloric acid (5 ml). The aqueous layer was further extracted with ethyl acetate (10 ml) and the ethyl acetate extract was combined, washed twice with water and dried over magnesium sulfate. After the solvent was distilled off, the residue was crystallized by adding a small amount of ether to give colorless crystals of 2-methyl-7-[2-(1H-tetrazol-1-yl)acetamido]-3-cephem-4-carboxylic acid (0.97 g), mp 202° to 203° C. (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-7-[2-(1H-tetrazol-1-yl)acetamido]-3-cephem-4-carboxylate | 2.0 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CN2N=NN=C2)=O)=O | C13H13Cl3N6O4S
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | Zinc | 2.4 g | [Zn] | Zn
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-7-[2-(1H-tetrazol-1-yl)acetamido]-3-cephem-4-carboxylic acid | 0.97 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CN2N=NN=C2)=O)=O | C11H12N6O4S
